US07666879B2
A. 7-[(Triisopropylsilanyl)-ethynyl]-imidazo[1,2-a]pyridine
Combine 7-iodo-imidazo[1,2-a]pyridine (2.64 g, 10.82 mmol), ethynyl-triisopropyl-silane (3.61 mL, 16.23 mmol), copper (I) iodide (0.103 g, 0.541 mmol) and triethylamine (7.54 mL, 54.09 mmol) in 1,4-dioxane (50 mL). Bubble nitrogen through the mixture for five minutes. Add [1,1′-Bis(diphenyl-phosphino)ferrocene] dichloropalladium(II) (0.442 g, 0.541 mmol, 1:1 complex with dichloromethane). Attach a reflux condenser, and heat the mixture to 85° C., stir overnight (15 hours), and cool to room temperature. Filter the mixture through Celite® 521. Concentrate the solution in vacuo to a dark brown oil and use as is. MS(ES), m/z 299 (M+1).

reactant | 7-iodo-imidazo[1,2-a]pyridine | 10.82 mmol, 2.64 g | IC1=CC=2N(C=C1)C=CN2 | C7H5IN2
reactant | ethynyl-triisopropyl-silane | 16.23 mmol, 3.61 mL | C(#C)[Si](C(C)C)(C(C)C)C(C)C | C11H22Si
reactant | triethylamine | 54.09 mmol, 7.54 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.541 mmol, 0.103 g | [Cu]I
catalyst | dichloropalladium(II) | 0.541 mmol, 0.442 g | Cl[Pd]Cl
product | 7-[(Triisopropylsilanyl)-ethynyl]-imidazo[1,2-a]pyridine | C(C)(C)[Si](C(C)C)(C(C)C)C#CC1=CC=2N(C=C1)C=CN2 | C18H26N2Si
